US04528400
A method according to claim 1 wherein the ketone is acetone and the carboxylic acid is benzoic acid to yield acetophenone.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | acetone | CC(=O)C | C3H6O
product | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
